### PR TITLE
[Merged by Bors] - refactor(MeasureTheory): golf `Mathlib/MeasureTheory/Constructions/BorelSpace/Real`

### PR DESCRIPTION
**Pull request by yuanyi-350**
- rewrites `measurable_const_mul` by splitting off the `c = 0` case and proving the nonzero case via `measurable_of_continuousOn_compl_singleton`
- replaces the ad hoc case analysis on `⊥`, `⊤`, and real coefficients with a direct continuity argument for multiplication on `EReal`

Extracted from #38104

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by yuanyi-350** [comment]
I ran a profiler comparison for the changed declarations in this PR.

Results (seconds):
- `measurable_const_mul`: `0.064007 -> 0.074603` (`+16.55%`)

Overall:
- `measurable_const_mul` is slower.

File: Mathlib/MeasureTheory/Constructions/BorelSpace/Real.lean [hunk 1]
```diff
@@ -506,25 +506,16 @@ lemma measurable_of_real_real {f : EReal × EReal → β}
...
-    refine Measurable.piecewise (measurableSet_singleton _) measurable_const ?_
-    exact Measurable.piecewise measurableSet_Iio measurable_const measurable_const
-  induction c with
-  | bot => rwa [h1]
-  | coe c => exact (measurable_id.const_mul _).coe_real_ereal
-  | top =>
-    simp_rw [← neg_bot, neg_mul]
-    apply Measurable.neg
-    rwa [h1]
+  rcases eq_or_ne c 0 with rfl | hc
```
Comment (LorenzoLuccioli) [inline Mathlib/MeasureTheory/Constructions/BorelSpace/Real.lean:509]: I suggest this golfed version, this also takes care of the performance issues.

```suggestion
  · simp only [zero_mul, measurable_const]
  · refine measurable_of_continuousOn_compl_singleton 0 fun x (hx : x ≠ 0) ↦ ?_
    exact (continuousAt_mul (Or.inl hc) (Or.inl hc) (Or.inr hx) (Or.inr hx)).comp_of_eq
      (continuousAt_const.prodMk continuousAt_id) rfl |>.continuousWithinAt
```

**Review by LorenzoLuccioli — APPROVED** [review]
LGTM

**Comment by RemyDegenne** [comment]
Please don't request my review on these LLM golf PRs. I regularly review some of them and they are often nice golfs, but they don't really add or change anything important so there is no urgency in merging them and I'd prefer not getting emails asking for reviews.

**Review by RemyDegenne — APPROVED** [review]
bors r+
